US06531492B1
4,4,4-TRIFLUORO-1-CYCLOHEXYL-1,3-BUTANEDIONE (STEP 1)
To a stirred solution of cyclohexylmethylketone (2.75 g, 21.8 mmol) in DME (200 mL) was added ethyl trifluoroacetate (7.79 ml, 65.4 mmol) and sodium methoxide (7.71 g, 131 mmol), and the resulting reaction mixture was stirred at room temperature overnight. EtOAc (500 ml) and water (50 ml) were added, and the pH of the aqueous layer was adjusted to 6 by addition of 1 N HCl solution. The organic layer was washed with brine (50 ml), dried over MgSO4, and concentrated in vacuo to give the title compound in quantitative yield. This was used for the next coupling step without further purification.

reactant | cyclohexylmethylketone | 21.8 mmol, 2.75 g | C1(CCCCC1)C(=O)C | C8H14O
reactant | ethyl trifluoroacetate | 65.4 mmol, 7.79 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | sodium methoxide | 131 mmol, 7.71 g | C[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | DME | 200 mL | COCCOC | C4H10O2
solvent | water | 50 ml | O | H2O
solvent | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
product | 4,4,4-TRIFLUORO-1-CYCLOHEXYL-1,3-BUTANEDIONE | quantitative yield | FC(C(CC(=O)C1CCCCC1)=O)(F)F | C10H13F3O2
